US08686130B2
(3-5) Synthesis of 1-[2-deoxy-β-D-ribofuranosyl]-4-[5-(2-thienyl)thiazol-2-yl]pyrrolo[2,3-b]pyridine (dDvas)
A solution of 5-(2-thienyl)thiazole (0.4 mmol) in diethyl ether was cooled to −78° C., and n-butyllithium (0.4 mmol, 1.57 M solution in hexane) was added thereto, followed by stirring at −78° C. for 30 min. Furthermore, tributylstannyl chloride was added thereto, followed by stirring at room temperature for 30 min. The reaction solution was separated between ethyl acetate and water. The organic layer was washed with saturated brine and concentrated, and 1-[2-deoxy-3,5-di-O-(toluoyl)-β-D-ribofuranosyl]-4-iodo-pyrrolo[2,3-b]pyridine (120 mg, 0.2 mmol), chlorobistriphenylphosphine palladium (5% mol), and DMF (2 mL) were added thereto, followed by stirring at 100° C. for 1 hr. The reaction solution was separated between ethyl acetate and water, and the organic layer was washed with saturated brine and water, dried over anhydrous sodium sulfate, and concentrated. After purification with a silica gel column and addition of sodium methoxide (1.6 mL), the resulting mixture was stirred at room temperature for 30 min. dDvas nucleoside (34 mg) was purified with a silica gel column and by HPLC.

reactant | 5-(2-thienyl)thiazole | 0.4 mmol | S1C(=CC=C1)C1=CN=CS1 | C7H5NS2
reactant | n-butyllithium | 0.4 mmol, 1.57 M | C(CCC)[Li]
reactant | tributylstannyl chloride | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | 1-[2-deoxy-3,5-di-O-(toluoyl)-β-D-ribofuranosyl]-4-iodo-pyrrolo[2,3-b]pyridine | 0.2 mmol, 120 mg | C=1(C(=CC=CC1)C(=O)O[C@H]1C[C@@H](O[C@@H]1COC(=O)C=1C(=CC=CC1)C)N1C=CC=2C1=NC=CC2I)C | C28H25IN2O5
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[2-deoxy-β-D-ribofuranosyl]-4-[5-(2-thienyl)thiazol-2-yl]pyrrolo[2,3-b]pyridine | [C@@H]1(C[C@H](O)[C@H](O1)CO)N1C=CC=2C1=NC=CC2C=2SC(=CN2)C=2SC=CC2 | C19H17N3O3S2
